US06852721B2
(1S,4S)-2-(5-Benzoyl-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane dihydrochloride
(1S,4S)-5-(5-Benzoyl-3-pyridyl)-2-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]heptane (0.360 g, 0.95 mmol) was dissolved in ethyl acetate (30 mL). The solution was saturated with HCl gas at 5° C. (ice water bath) and was allowed to stand overnight at room temperature. After evaporation of the solvent under vacuum, the residue was triturated with ether. The formed precipitate was dried under vacuum to give 0.30 g (90%) of a yellow powder.

reactant | (1S,4S)-5-(5-Benzoyl-3-pyridyl)-2-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]heptane | 0.95 mmol, 0.360 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=NC1)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C22H25N3O3
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (1S,4S)-2-(5-Benzoyl-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane dihydrochloride | 0.30 g, 90% | Cl.Cl.C(C1=CC=CC=C1)(=O)C=1C=C(C=NC1)N1[C@@H]2CN[C@H](C1)C2 | InChI=1S/C17H17N3O.2ClH/c21-17(12-4-2-1-3-5-12)13-6-15(9-18-8-13)20-11-14-7-16(20)10-19-14;;/h1-6,8-9,14,16,19H,7,10-11H2;2*1H/t14-,16-;;/m0../s1
